US05266283
5-t-amyl-t-butylsalicylaldehyde
4-t-amyl-2-t-butylphenol (53 g, 0.24 mole) was dissolved in 150 ml absolute ethanol in a 1 L round-bottom flask equipped with a water-cooled condenser. Sodium hydroxide (96 g, 2.4 moles) was dissolved in 100 ml water, and the hot solution was added to the solution of phenol. Chloroform (57 g, 0.48 mole) was added in 1 ml portions over a 45-minute period. The resulting yellow-brown mixture was stirred 1 hour as it cooled to ambient temperature. The mixture was diluted into 500 ml of 1M sulfuric acid and extracted with 200 ml chloroform. The organic layer was isolated in a separatory funnel and dried over anhydrous magnesium sulfate. The mixture was filtered and rotoevaporated to a thick syrup The yield was 37%. The IR spectrum of the crude product showed a characteristic aldehyde carbonyl absorption. The product was used without further purification.

reactant | 4-t-amyl-2-t-butylphenol | 0.24 mole, 53 g | C(C)(C)(CC)C1=CC(=C(C=C1)O)C(C)(C)C | C15H24O
reactant | Sodium hydroxide | 2.4 moles, 96 g | [OH-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | Chloroform | 0.48 mole, 57 g | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuric acid | 1M, 500 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 5-t-amyl-t-butylsalicylaldehyde | yield was 37% | C(C)(C)(CC)C1=CC=C(C(C=O)=C1)OC(C)(C)C | C16H24O2
